datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N+:21]1([H:20])CCCCC1.c1cc2c([n:10]c1)CCCC2>>[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N:21]1CCCCC1.c1cc2c([n+:10]([H:20])c1)CCCC2 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cncc(CCCC[NH2:10])c1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cncc(CCCC[NH2+:10][H:20])c1 10=20;20,21=21",
"CC[NH+](CC)Cc1cc([N+](=O)[O-])ccc1[O-:10].Nc1cccc2c1cc1ccccc1[n+:21]2[H:20]>>CC[NH+](CC)Cc1cc([N+](=O)[O-])ccc1[O:10][H:20].Nc1cccc2c1cc1ccccc1[n:21]2 10=20;20,21=21",
"CC(C)[NH+]1CCC(N[NH:10]C(C)C)CC1.CCc1c(C)nn(-c2ccccc2)c1[O:21][H:20]>>CC(C)[NH+]1CCC(N[NH+:10](C(C)C)[H:20])CC1.CCc1c(C)nn(-c2ccccc2)c1[O-:21] 10=20;20,21=21",
"COc1ccc(C[NH2:10])cc1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1ccc(C[NH2+:10][H:20])cc1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CN1C2=C(CCCC2)OC1=[N+:21](C)[H:20].O=C(CC[C@H]1CC[C@H](O)CC1)[O-:10]>>CN1C2=C(CCCC2)OC1=[N:21]C.O=C(CC[C@H]1CC[C@H](O)CC1)[O:10][H:20] 10=20;20,21=21",
"CC(C)C[NH:10]CC(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)C[NH+:10](CC(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1c(Cl)ccc2c1nnn2[O:21][H:20].Oc1cc2cccnc2c2ccc[n:10]c12>>Cc1c(Cl)ccc2c1nnn2[O-:21].Oc1cc2cccnc2c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"C[NH2+]CC[N+:21](C)(CC[NH3+])[H:20].O=[N+]([O-])c1ccc2[nH]c(C(F)(F)F)[n:10]c2c1>>C[NH2+]CC[N:21](C)CC[NH3+].O=[N+]([O-])c1ccc2[nH]c(C(F)(F)F)[n+:10]([H:20])c2c1 10=20;20,21=21",
"C[OH+:21][H:20].Cc1cc(C)[n:10]c([S-])[n+]1C>>C[OH:21].Cc1cc(C)[n+:10]([H:20])c([S-])[n+]1C 10=20;20,21=21",
"O=C([O-])C(Cc1cccnc1)[NH2:10].O=C(c1ccc(-c2nnn[nH]2)cc1)[O:21][H:20]>>O=C([O-])C(Cc1cccnc1)[NH2+:10][H:20].O=C(c1ccc(-c2nnn[nH]2)cc1)[O-:21] 10=20;20,21=21",
"CC(C)CC[NH:10]CCC(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)CC[NH+:10](CCC(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH+:21](CCCN)[H:20].Cc1cc(C)c(C)c([O-:10])c1>>C[NH:21]CCCN.Cc1cc(C)c(C)c([O:10][H:20])c1 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1>>COC(=O)CSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"Clc1cc(Cl)c([O-:10])c(C[NH+]2CCCCC2)c1Cl.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1cc(Cl)c([O:10][H:20])c(C[NH+]2CCCCC2)c1Cl.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)c1ccc(C(=O)[O-:10])cc1.CO/C(C)=C\C(=O)[O:21][H:20]>>CC(=O)c1ccc(C(=O)[O:10][H:20])cc1.CO/C(C)=C\C(=O)[O-:21] 10=20;20,21=21",
"C[NH+]1C[C@@H](C(=O)[O:21][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12.O=[PH](C([NH2+]Cc1cccc[nH+]1)c1ccccc1O)[O-:10]>>C[NH+]1C[C@@H](C(=O)[O-:21])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12.O=[PH](C([NH2+]Cc1cccc[nH+]1)c1ccccc1O)[O:10][H:20] 10=20;20,21=21",
"CN1C(=O)C2=C(N(C)C1=O)[N:21]([H:20])C(=O)N2C.Cc1cccc(I)c1C(=O)[O-:10]>>CN1C(=O)C2=C(N(C)C1=O)[N-:21]C(=O)N2C.Cc1cccc(I)c1C(=O)[O:10][H:20] 10=20;20,21=21",
"C[N:10]1CCCCCC1.c1nocc1[O:21][H:20]>>C[N+:10]1([H:20])CCCCCC1.c1nocc1[O-:21] 10=20;20,21=21",
"CC1CNCC[NH:10]1.c1cncc(C(c2ccncc2)(c2ccncc2)[O:21][H:20])c1>>CC1CNCC[NH+:10]1[H:20].c1cncc(C(c2ccncc2)(c2ccncc2)[O-:21])c1 10=20;20,21=21",
"CC(C)N/C=[NH+]/c1ccc(-c2cn(C)c[n:10]2)cc1.O=C1c2cc(O[C@H]3O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]3O)ccc2Oc2cccc(O)c21>>CC(C)N/C=[NH+]/c1ccc(-c2cn(C)c[n+:10]2[H:20])cc1.O=C1c2cc(O[C@H]3O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]3O)ccc2Oc2cccc(O)c21 10=20;20,21=21",
"CC[NH+](CC)CCCNC(=O)/C=N/[O-:10].[NH3+][C@H]1CCCC[C@@H]1C(=O)[O:21][H:20]>>CC[NH+](CC)CCCNC(=O)/C=N/[O:10][H:20].[NH3+][C@H]1CCCC[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"Cc1ncc2c(c1[O-:10])C(O)OC2.Nc1nc([O-])c2nc[n:21]([H:20])c2n1>>Cc1ncc2c(c1[O:10][H:20])C(O)OC2.Nc1nc([O-])c2nc[n-:21]c2n1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].O=C([O-])c1cc2ccccc2cc1[O-:10]>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].O=C([O-])c1cc2ccccc2cc1[O:10][H:20] 10=20;20,21=21",
"Nc1ccc(-c2nnn[n-:10]2)cc1.O=C([O-])/C=N/[O:21][H:20]>>Nc1ccc(-c2nnn[n:10]2[H:20])cc1.O=C([O-])/C=N/[O-:21] 10=20;20,21=21",
"C[N+:21]1([H:20])CCCC(C(=O)[O-])C1.Cc1ccc(S(=O)(=O)[N-:10]CC[NH+](CC(=O)[O-])CC(=O)[O-])cc1>>C[N:21]1CCCC(C(=O)[O-])C1.Cc1ccc(S(=O)(=O)[N:10](CC[NH+](CC(=O)[O-])CC(=O)[O-])[H:20])cc1 10=20;20,21=21",
"C[C@@H](N)[C@H](C)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@@H](N)[C@H](C)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C1C[NH2+]CCSCC[NH+:21]([H:20])C1.CC[C@H]1C[N:10]2CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12>>C1C[NH2+]CCSCC[NH:21]C1.CC[C@H]1C[N+:10]2([H:20])CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12 10=20;20,21=21",
"O=C(NC[O-:10])c1ccccc1.c1cc(C(c2ccncc2)(c2ccncc2)[O:21][H:20])ccn1>>O=C(NC[O:10][H:20])c1ccccc1.c1cc(C(c2ccncc2)(c2ccncc2)[O-:21])ccn1 10=20;20,21=21",
